US07211573B2
To a solution of 3.52 g (20 mmol) diethyl methylmalonate in 40 ml dimethylformamide were added 13.1 g (40 mmol) cesium carbonate. The suspension was stirred at room temperature and air was bubbled in for 1 hour. The mixture was poured into water and extracted with ethylacetate. Extraction at pH 1 with ethylacetate yielded 2.28 g (70%) 2-hydroxy-2-methyl-malonic acid monoethyl ester, light yellow liquid, MS m/e (%): 161.0 (M−H, 100).

reactant | diethyl methylmalonate | 20 mmol, 3.52 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | cesium carbonate | 40 mmol, 13.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-hydroxy-2-methyl-malonic acid monoethyl ester | 2.28 g, 70% | C(C)OC(C(C(=O)O)(C)O)=O | C6H10O5
